* Crossbar one bit

simulator lang=spice

.include '45nm_LP.pm'
*.include 'MTJT.spi'
.include 'TRANSGATE.spi'
.include '1T1MBitCell.spi'

*pra escrever precisa de uma ddp de 0.9 e pra ler -0.36
.param cap = 0.5f

.param Vvdd = 1.6

.param Vgnd = 0

.param Vread = 0.8

.param TpWord = 0.5
.param TpWrite = 0.9n
.param TpRead = 0.1n
.param TpPulse = 1n

* Wordlines controller
Vwl1 WL1 Gnd PWL 0 'Vgnd' '2n-1p' 'Vgnd' '2n' 'Vvdd' 'TpWrite+5n-1p' 'Vvdd' 'TpWrite+5n' 'Vgnd' 'TpWrite+5n+TpPulse' 'Vgnd' 'TpWrite+5n+TpPulse+1p' 'Vvdd' '8n-1p+TpRead' 'Vvdd' '8n+TpRead' 'Vgnd' '8n+0.8n' 'Vgnd' '8n+0.8n+1p' 'Vvdd'
Vwl2 WL2 Gnd PWL 0 'Vgnd'
Vwl3 WL3 Gnd PWL 0 'Vgnd'

*Bitlines controller
Vbl1 BL1 Gnd PWL 0 'Vgnd' 'TpWrite+5n-1p' 'Vgnd' 'TpWrite+5n' 'Vvdd' 'TpWrite+5n+TpPulse' 'Vvdd' 'TpWrite+5n+TpPulse+1p' 'Vgnd'
Vbl2 BL2 Gnd PWL 0 'Vgnd' 
Vbl3 BL3 Gnd PWL 0 'Vgnd' 

*SourceLine Controller
Vsl1 SL1 Gnd PWL 0 'Vgnd' 'TpRead-1p' 'Vgnd' 'TpRead' 'Vvdd' 'TpRead+TpPulse' 'Vvdd' 'TpRead+TpPulse+1p' 'Vgnd' '8n-1p+TpRead' 'Vgnd' '8n+TpRead' 'Vread' '8n+0.8n' 'Vread' '8n+0.8n+1p' 'Vgnd'
Vsl2 SL2 Gnd PWL 0 'Vgnd'
Vsl3 SL3 Gnd PWL 0 'Vgnd'

Vbl1en ENBl1 Gnd PWL 0 'Vvdd'
Vbl2en ENBl2 Gnd PWL 0 'Vgnd'
Vbl3en ENBl3 Gnd PWL 0 'Vgnd'

Vdd Vdd Gnd 'Vvdd' 

* Bitcells
X1 NM1 SL1 WL1 BCTM
Vtest1 BL1 NM1 0

X2 NM2 SL2 WL1 BCTM
Vtest2 BL2 NM2 0

X3 NM3 SL3 WL1 BCTM
Vtest3 BL3 NM3 0

X4 NM4 SL1 WL2 BCTM
Vtest4 BL1 NM4 0

X5 NM5 SL2 WL2 BCTM
Vtest5 BL2 NM5 0

X6 NM6 SL3 WL2 BCTM
Vtest6 BL3 NM6 0

X7 NM7 SL1 WL3 BCTM
Vtest7 BL1 NM7 0

X8 NM8 SL2 WL3 BCTM
Vtest8 BL2 NM8 0

X9 NM9 SL3 WL3 BCTM
Vtest9 BL3 NM9 0

*Bitlines Capacitance
Cbl1 BL1 Gnd 'cap'
Cbl2 BL2 Gnd 'cap'
Cbl3 BL3 Gnd 'cap'

.TRAN 1p 10n

.option rawfmt="psfbin"
